US08957074B2
Following general N—C coupling procedure 1, 2-(6-amino-pyridin-3-yl)-hexahydro-pyrrolo[1,2-a]pyrazin-1-one (0.050 g, 0.215 mmol) was combined with 2-chloro-7-cyclohexyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (0.066 g, 0.215 mmol, 1.0 eq), and gave 7-Cyclohexyl-2-[5-(1-oxo-hexahydro-pyrrolo[1,2-a]pyrazin-2-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide as a beige solid (75 mg, 0.139 mmol), in 65% yield. 1H NMR (400 MHz, CDCl3) δ ppm 1.23-1.52 (m, 4H) 1.72-1.90 (m, 2H) 1.90-2.00 (m, 6H) 2.00-2.18 (m, 2H) 2.21-2.39 (m, 1H) 2.52-2.82 (m, 3H) 2.95-3.14 (m, 3H) 3.15-3.27 (m, 8H) 3.42 (t, J=8.28 Hz, 1H) 3.66 (dt, J=11.54, 4.02 Hz, 1H) 3.95 (ddd, J=11.80, 9.29, 4.52 Hz, 1H) 4.27-4.41 (m, 1H) 6.45 (s, 1H) 7.69 (dd, J=9.03, 2.51 Hz, 1H) 8.11 (5, 1H) 8.25 (d, J=2.51 Hz, 1H) 8.65 (d, J=9.03 Hz, 1H) 8.73 (s, 1H); HRMS calc for m/z=503.2883. Found m/z=503.2892 (M+H).

reactant | 2-(6-amino-pyridin-3-yl)-hexahydro-pyrrolo[1,2-a]pyrazin-1-one | 0.215 mmol, 0.050 g | NC1=CC=C(C=N1)N1C(C2N(CC1)CCC2)=O | C12H16N4O
reactant | 2-chloro-7-cyclohexyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.215 mmol, 0.066 g, 1.0 eq | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCCC1)C | C15H19ClN4O
product | 7-Cyclohexyl-2-[5-(1-oxo-hexahydro-pyrrolo[1,2-a]pyrazin-2-yl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.139 mmol, 75 mg, 65% yield | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2C(C3N(CC2)CCC3)=O)N1C1CCCCC1)C | C27H34N8O2
